US03956323
A total of 29.5 g of benzyl-(RS)-α-bromo-isocaproate was added dropwise at 60° with stirring over a period of 15 minutes to a solution of 12.8 g of isonicotinic acid in a mixture of 60 ml. of dimethylformamide and 14.8 ml of triethylamine. The reaction mixture was stirred for 5 hours at 90°. The triethylamine hydrobromide was then filtered off by suction and the filtrate evaporated under reduced pressure at 60°. The residue was dissolved in 100 ml of ethyl acetate and filtered and the filtrate washed three times with 15 ml portions of 1-N potassium bicarbonate solution and twice with 20 ml portions of water. The ethyl acetate solution was dried with magnesium sulphate and evaporated under reduced pressure at 45°. Benzyl-(RS)-2-(isonicotinoyloxy)-isocaproate was obtained as an oil.

reactant | benzyl-(RS)-α-bromo-isocaproate | 29.5 g | C(C1=CC=CC=C1)OC(C(CC(C)C)Br)=O | C13H17BrO2
reactant | isonicotinic acid | 12.8 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | 14.8 ml | C(C)N(CC)CC | C6H15N
product | Benzyl-(RS)-2-(isonicotinoyloxy)-isocaproate | C(C1=CC=CC=C1)OC(C(CC(C)C)OC(C1=CC=NC=C1)=O)=O | C19H21NO4
